US06174458B1
To a mixture of (4-pentyl-cyclohexyl)-3,5-difluorobenzene (10 mmol) and 150 ml of THF, was added dropwise 7.5 ml of a solution of n-butyl lithium (corresponding to 12 mmol) in hexane while keeping them at a temperature lower than −70° C., and stirred at the same temperature for 30 min. While keeping the solution at a temperature lower than −70° C., iodine (30 mmol) was added thereto. Then, the solution was stirred for 1.5 hours, temperature of the solution was gradually backed up to room temperature, and then the solution was stirred for 2 hours. After 12 ml of 1N hydrochloric acid was added and stirred for 30 min, the reaction solution was extracted once with toluene and dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was purified by column chromatography (eluent: heptane) to give a (4-pentyl-cyclohexyl)-3,5-difluoro-4-iodobenzene (8.3 mmol).

reactant | (4-pentyl-cyclohexyl)-3,5-difluorobenzene | 10 mmol | C(CCCC)C1CCC(CC1)C1=CC(=CC(=C1)F)F | C17H24F2
reactant | n-butyl lithium | 12 mmol | C(CCC)[Li]
reactant | iodine | 30 mmol | II | I2
reactant | hydrochloric acid | 1N, 12 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | (4-pentyl-cyclohexyl)-3,5-difluoro-4-iodobenzene | 8.3 mmol | C(CCCC)C1CCC(CC1)C1=CC(=C(C(=C1)F)I)F | C17H23F2I
